US07713993B2
Synthesis of tert-butyl N′-[5-chloro-2-(2,4,6-trifluorophenyl)pentanoyl]hydrazinecarboxylate
IPEA (1.1 mL) and BOPCl (798 mg) were added to a solution of 5-chloro-2-(2,4,6-trifluorophenyl)pentanoic acid (560 mg) synthesized according to the method described in Tetrahedron Letters, 2003, vol. 44, p. 365 and tert-butyl carbazate (276 mg) in methylene chloride (5 mL), and the reaction solution was stirred at room temperature for one hour. Ethyl acetate and 1 N aqueous hydrochloric acid were added to the reaction solution, and the organic layer was separated. The resulting organic layer washed with saturated sodium bicarbonate water, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane->heptane:ethyl acetate=1:1) to obtain 333 mg of the title compound. The property values of the compound are as follows.

reactant | IPEA | 1.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | BOPCl | 798 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | 5-chloro-2-(2,4,6-trifluorophenyl)pentanoic acid | 560 mg | ClCCCC(C(=O)O)C1=C(C=C(C=C1F)F)F | C11H10ClF3O2
reactant | tert-butyl carbazate | 276 mg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl N′-[5-chloro-2-(2,4,6-trifluorophenyl)pentanoyl]hydrazinecarboxylate | 333 mg | ClCCCC(C(=O)NNC(=O)OC(C)(C)C)C1=C(C=C(C=C1F)F)F | C16H20ClF3N2O3
